US09278968B2
To a mixture of 86 mg of methyl 3-[(2R)-2-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-1-hydroxypropan-2-yl]benzoate, 1.9 ml of methanol, and 1.9 ml of THF was added 0.36 ml of a 1 M aqueous sodium hydroxide solution, followed by stirring at 40° C. for 16 hours. The reaction mixture was left to be cooled to room temperature and 1 M hydrochloric acid was then added thereto, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 52 mg of 3-[(2R)-2-({ [8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-1-hydroxypropan-2-yl]benzoic acid.

reactant | methyl 3-[(2R)-2-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-1-hydroxypropan-2-yl]benzoate | 86 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@](CO)(C)C=2C=C(C(=O)OC)C=CC2 | C27H33N3O5
reactant | methanol | 1.9 ml | CO | CH4O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 1.9 ml | C1CCOC1 | C4H8O
product | 3-[(2R)-2-({ [8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-1-hydroxypropan-2-yl]benzoic acid | 52 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@](CO)(C)C=2C=C(C(=O)O)C=CC2 | C26H31N3O5
